US08134013B2
8-b) [(5-{1-[5-(3,4-Dichlorophenyl)-4-hydroxythiophen-3-yl]ethylidenehydrazinocarbonyl}thiophene-2-carbonyl)amino]acetic acid
tert-Butyl[(5-{1-[5-(3,4-dichlorophenyl)-4-hydroxythiophen-3-yl]ethylidenehydrazinocarbonyl}thiophene-2-carbonyl)amino]acetate (69 mg, 0.12 mmol) in CH2Cl2 (4.0 mL) was stirred with trifluoroacetic acid (0.14 mL) at room temperature for 4 days. The reaction mixture was concentrated under reduced pressure, and chloroform was added. The precipitated solid was collected by filtration, washed with chloroform and dried to give 35 mg of the desired product (yield 56%).

reactant | tert-Butyl[(5-{1-[5-(3,4-dichlorophenyl)-4-hydroxythiophen-3-yl]ethylidenehydrazinocarbonyl}thiophene-2-carbonyl)amino]acetate | 0.12 mmol, 69 mg | C(C)(C)(C)OC(CNC(=O)C=1SC(=CC1)C(=O)NN=C(C)C1=CSC(=C1O)C1=CC(=C(C=C1)Cl)Cl)=O | C24H23Cl2N3O5S2
reactant | trifluoroacetic acid | 0.14 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 4.0 mL | C(Cl)Cl | CH2Cl2
product | [(5-{1-[5-(3,4-Dichlorophenyl)-4-hydroxythiophen-3-yl]ethylidenehydrazinocarbonyl}thiophene-2-carbonyl)amino]acetic acid | 35 mg, yield 56% | ClC=1C=C(C=CC1Cl)C1=C(C(=CS1)C(C)=NNC(=O)C1=CC=C(S1)C(=O)NCC(=O)O)O | C20H15Cl2N3O5S2
